datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC[N+:21](CC)(CCCC(C)Nc1ccnc2cc(Br)ccc12)[H:20].COc1ccc2c(c1OC(C)=O)[C@]13CC[N:10](C)[C@H](C2)[C@@H]1CC[C@H](OC)C3>>CC[N:21](CC)CCCC(C)Nc1ccnc2cc(Br)ccc12.COc1ccc2c(c1OC(C)=O)[C@]13CC[N+:10](C)([H:20])[C@H](C2)[C@@H]1CC[C@H](OC)C3 10=20;20,21=21",
"C1CNCCSCC[NH:10]C1.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>C1CNCCSCC[NH+:10]([H:20])C1.O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"O=S(=O)([O-])c1ccc([O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=S(=O)([O-])c1ccc([O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1cc(-n2c(C)cc(C)[n+:21]2[H:20])[nH+]n1C.O=C1C=C(c2ccc([O-:10])cc2)SS1>>Cc1cc(-n2c(C)cc(C)[n:21]2)[nH+]n1C.O=C1C=C(c2ccc([O:10][H:20])cc2)SS1 10=20;20,21=21",
"CNC(=O)CS(=O)(=O)[N-:10]C(N)=O.Cc1ccc([NH2+]CC[NH+:21](c2ccc(C)cc2)[H:20])cc1>>CNC(=O)CS(=O)(=O)[N:10](C(N)=O)[H:20].Cc1ccc([NH2+]CC[NH:21]c2ccc(C)cc2)cc1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20].O=C([O-])C1CCC[NH:10]1>>O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-].O=C([O-])C1CCC[NH+:10]1[H:20] 10=20;20,21=21",
"O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20].Oc1ccccc1CN1CCCNCCC[NH:10]CCC1>>O=[N+]([O-])[CH-:21]SC1=CC=CC=C1.Oc1ccccc1CN1CCCNCCC[NH+:10]([H:20])CCC1 10=20;20,21=21",
"CC(=O)c1ccc([N:21](N=C(C#N)C#N)[H:20])cc1.CC/C=C/CC1=[N:10]C(C(=O)[O-])C2SC(C)(C)C(C(=O)[O-])N12>>CC(=O)c1ccc([N-:21]N=C(C#N)C#N)cc1.CC/C=C/CC1=[N+:10]([H:20])C(C(=O)[O-])C2SC(C)(C)C(C(=O)[O-])N12 10=20;20,21=21",
"CCSCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCSCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCC[NH+:21](CC(=O)[O-])[H:20].c1ccc2c(c1)ccc1c2cc2ccccc2[n:10]1>>CCCC[NH:21]CC(=O)[O-].c1ccc2c(c1)ccc1c2cc2ccccc2[n+:10]1[H:20] 10=20;20,21=21",
"CC(O)C(C(=O)[O:21][H:20])c1ccc(C2CCCCC2)cc1.CCCC[NH2+]CC[NH2:10]>>CC(O)C(C(=O)[O-:21])c1ccc(C2CCCCC2)cc1.CCCC[NH2+]CC[NH2+:10][H:20] 10=20;20,21=21",
"C=CCc1c(C)[nH][n+:21]([H:20])c1O.Nc1cc(N)[n:10]c2ccccc12>>C=CCc1c(C)[nH][n:21]c1O.Nc1cc(N)[n+:10]([H:20])c2ccccc12 10=20;20,21=21",
"COc1ccc(C[NH2:10])c([N+](=O)[O-])c1.ClCC1CC2CC[N+:21]1([H:20])CC2>>COc1ccc(C[NH2+:10][H:20])c([N+](=O)[O-])c1.ClCC1CC2CC[N:21]1CC2 10=20;20,21=21",
"COC1=CC([C:21](C)([N+](=O)[O-])[H:20])=CC=C1.Clc1ccc(C(Nc2ccccc2)[O-:10])cc1>>COC1=CC([C-:21](C)[N+](=O)[O-])=CC=C1.Clc1ccc(C(Nc2ccccc2)[O:10][H:20])cc1 10=20;20,21=21",
"Nc1ccc(S(=O)(=O)[N-:10]c2cccnn2)cc1.c1ccc2c([NH2+:21][H:20])n[nH]c2c1>>Nc1ccc(S(=O)(=O)[N:10](c2cccnn2)[H:20])cc1.c1ccc2c([NH2:21])n[nH]c2c1 10=20;20,21=21",
"Cc1ccc(C(=S)[N-:10]c2ccc(Cl)c(Cl)c2)cc1.ClCC1C[N+:21]2([H:20])CCC1CC2>>Cc1ccc(C(=S)[N:10](c2ccc(Cl)c(Cl)c2)[H:20])cc1.ClCC1C[N:21]2CCC1CC2 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=[N+]([O-])c1ccc(Cl)cc1C[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=[N+]([O-])c1ccc(Cl)cc1C[NH2+:10][H:20] 10=20;20,21=21",
"CC(C)C1CC(CC(=O)[O-])[NH:10]C1C(=O)[O-].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(C)C1CC(CC(=O)[O-])[NH+:10]([H:20])C1C(=O)[O-].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C#CC(C)(C)[N:10](CC)C(C)(C)C.[O-]c1ccnc[n+:21]1[H:20]>>C#CC(C)(C)[N+:10](CC)(C(C)(C)C)[H:20].[O-]c1ccnc[n:21]1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O[C@H](c1ccccc1)[C@@H](c1ccccc1)[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O[C@H](c1ccccc1)[C@@H](c1ccccc1)[NH2+:10][H:20] 10=20;20,21=21",
"CC(=O)Nc1cccc([O:21][H:20])c1.NC(=O)CN(CCN(CC(N)=O)Cc1ccccc1[O-:10])Cc1ccccc1O>>CC(=O)Nc1cccc([O-:21])c1.NC(=O)CN(CCN(CC(N)=O)Cc1ccccc1[O:10][H:20])Cc1ccccc1O 10=20;20,21=21",
"C=C(C)C(=O)OCC[NH:10]C.Cc1ccc(OCC(=O)N[C@H]2C(=O)N3[C@H]2SC(C)(C)[C@H]3C(=O)[O:21][H:20])cc1>>C=C(C)C(=O)OCC[NH+:10](C)[H:20].Cc1ccc(OCC(=O)N[C@H]2C(=O)N3[C@H]2SC(C)(C)[C@H]3C(=O)[O-:21])cc1 10=20;20,21=21",
"CCOCC[NH:10]c1cccc(C)c1.Cc1cccc(C(=O)[O:21][H:20])c1C>>CCOCC[NH+:10](c1cccc(C)c1)[H:20].Cc1cccc(C(=O)[O-:21])c1C 10=20;20,21=21",
"CC(C)=NNC1CC[N:10](C)CC1.COCC[NH+:21](c1cccc(OC)c1)[H:20]>>CC(C)=NNC1CC[N+:10](C)([H:20])CC1.COCC[NH:21]c1cccc(OC)c1 10=20;20,21=21",
"C[n+]1ccc2cccc([O-:10])c2c1.Nc1cccc2c[n+:21]([H:20])cnc12>>C[n+]1ccc2cccc([O:10][H:20])c2c1.Nc1cccc2c[n:21]cnc12 10=20;20,21=21",
"C=C(C)C(=O)OCC[NH:10]CC.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C=C(C)C(=O)OCC[NH+:10](CC)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"C[NH2+]CCN(C)CC[NH:10]C.c1ccc2c(c1)CCC([NH2+:21][H:20])C2>>C[NH2+]CCN(C)CC[NH+:10](C)[H:20].c1ccc2c(c1)CCC([NH2:21])C2 10=20;20,21=21",
"C=CC[N+:21]1([H:20])CCOCC1.CC(=O)C(=O)[O-:10]>>C=CC[N:21]1CCOCC1.CC(=O)C(=O)[O:10][H:20] 10=20;20,21=21",
"COc1c(N)cccc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N:10]2Cc1ccccc1.Cc1cc2cccc(O)c2[n+:21]([H:20])c1>>COc1c(N)cccc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N+:10]2(Cc1ccccc1)[H:20].Cc1cc2cccc(O)c2[n:21]c1 10=20;20,21=21",
"C[NH+](C)CCCCNc1c2ccccc2[n+:21]([H:20])c2cccc([N+](=O)[O-])c12.N#C/C(=C\C(=O)[O-:10])c1ccccc1>>C[NH+](C)CCCCNc1c2ccccc2[n:21]c2cccc([N+](=O)[O-])c12.N#C/C(=C\C(=O)[O:10][H:20])c1ccccc1 10=20;20,21=21",
